US08012976B2
To a stirred mixture of compound tert-butyl 4-(cyclopropanecarbonyl)piperazine-1-carboxylate (3.7 g, 14.5 mmol) in methanol (15 mL) was added hydrochloride/methanol (15 mL, 3M)) at 0° C. After the addition, the mixture was allowed to stir at room temperature overnight. The mixture was concentrated to give cyclopropyl(piperazin-1-yl)methanone hydrochloride (2.74 g, yield 100%) as an off-white solid. 1H-NMR (400 MHz, DMSO-d6) δ (ppm): 0.71-0.76 (m, 4H), 1.96-2.03 (m, 1H), 3.04-3.16 (m, 4H), 3.69-4.08 (m, 4H), 9.58 (s, 2H); LC-MS (ESI) m/z: 155(M+1)+.

reactant | tert-butyl 4-(cyclopropanecarbonyl)piperazine-1-carboxylate | 14.5 mmol, 3.7 g | C1(CC1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C13H22N2O3
reactant | hydrochloride methanol | 3M, 15 mL | Cl.CO
solvent | methanol | 15 mL | CO | CH4O
product | cyclopropyl(piperazin-1-yl)methanone hydrochloride | 2.74 g, yield 100% | Cl.C1(CC1)C(=O)N1CCNCC1 | InChI=1S/C8H14N2O.ClH/c11-8(7-1-2-7)10-5-3-9-4-6-10;/h7,9H,1-6H2;1H
